US04839365
To a solution of 279.6 mg (0.700 mmol) of 1-ethoxycarbonyloxymethyl-2-[(thieno[2, 3-c]pyridin-7-yl)methylthio]benzimidazole (Ib-11) in 30 ml of CHCl, was mixed with 226.5 mg (1.05 mmol) of 80% m-CPBA at -10° to -15° C., and stirred for 1 hr. The mixture was treated with 3 ml of saturated aqueous NaHCO3 and 0.6 ml of 10% aqueous sodium sulfite, and after bringing back to room temperature, the solution was mixed with water and extracted with CHCl3. After drying CHCl3 layer over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, whereby brown viscous liquid was obtained. After silica gel column chromatography, the crystals were dispersed with 3 ml of ether, followed by filtration and washed with ether, whereby 158.0 mg (Yield : 54.3%) of the objective compound (Ic-17), 1-ethoxycarbonyloxymethyl-2-[(thieno[2, 3-c]pyridin-7-yl]methylsulfinyl]benzimidazole was obtained as crystals.

reactant | 1-ethoxycarbonyloxymethyl-2-[(thieno[2, 3-c]pyridin-7-yl)methylthio]benzimidazole | 0.700 mmol, 279.6 mg | C(C)OC(=O)OCN1C(=NC2=C1C=CC=C2)SCC=2N=CC=C1C2SC=C1 | C19H17N3O3S2
reactant | m-CPBA | 1.05 mmol, 226.5 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | 3 ml | C(=O)(O)[O-].[Na+]
reactant | sodium sulfite | 0.6 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | 3 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 1-ethoxycarbonyloxymethyl-2-[(thieno[2, 3-c]pyridin-7-yl]methylsulfinyl]benzimidazole | C(C)OC(=O)OCN1C(=NC2=C1C=CC=C2)S(=O)CC=2N=CC=C1C2SC=C1 | C19H17N3O4S2
